US08207177B2
Step h: 2-((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)ethanesulfonamide (Compound I-59)
2-((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)ethanesulfonamide (32 mg, 0.000057 mol) was dissolved in tetrahydrofuran (1.0 mL, 0.012 mol) and a 1.00 M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (0.100 mL) was added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was quenched with a little water and then concentrated. Purification of the residue by silica gel chromatography, eluting with 0 to 100% of (9:1 EtOAc:EtOH) in DCM, afforded the desired product, (9 mg, 40%). 1H-NMR (400 MHz, MeOD, δ): 8.16 (s, 1H), 7.19 (m, 5H), 6.62 (d, J=3.6 Hz, 1H), 5.85 (t, J=7.7 Hz, 1H), 5.43 (dddd, J=4.2 Hz, 8.4 Hz, 8.4 Hz, 8.4 Hz, 1H), 4.35 (t, J=3.7 Hz, 1H), 3.13 (m, 3H), 2.91 (m, 1H), 2.63 (m, 1H), 2.49 (m, 1H), 2.35 (ddd, J=1.2 Hz, 8.1 Hz, 13.8 Hz, 1H), 2.05 (m, 6H). LC/MS: Rt=1.07 min, ES+ 442 (AA standard).

reactant | 2-((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)ethanesulfonamide | 0.000057 mol, 32 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CCS(=O)(=O)N | C28H41N5O3SSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.012 mol, 1.0 mL | O1CCCC1 | C4H8O
product | 2-((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)ethanesulfonamide | 9 mg, 40% | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@H]2C[C@@H]([C@@H](C2)CCS(=O)(=O)N)O | C22H27N5O3S
